US06291469B1
Step A: Preparation of 9-(4-cyanobenzoyl)-3-oxo-1-oxa-4,9-diaza-spiro[5.5]undecane
18.0 g (71.7 mmol) 3-oxo-1-oxa-4,9-diaza-spiro[5.5]undecane hydrobromide (prepared according to J. Med. Chem. 1983, 26, 855) were dissolved in 300 ml dry pyridine, and 11.9 g (71.9 mmol) 4-cyanobenzoyl chloride were added in small portions. The mixture was stirred over night at room temperature and evaporated under reduced pressure. The residue was dissolved in toluene, which was removed in vacuo. This process was repeated two times to remove remaining pyridine. It was treated with water and neutralized by addition of saturated aqueous sodium bicarbonate solution. The precipitate of the title compound was filtered with suction, washed with water, and dried in vacuo.

reactant | 3-oxo-1-oxa-4,9-diaza-spiro[5.5]undecane hydrobromide | 71.7 mmol, 18.0 g | Br.O=C1COC2(CN1)CCNCC2
reactant | 4-cyanobenzoyl chloride | 71.9 mmol, 11.9 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 9-(4-cyanobenzoyl)-3-oxo-1-oxa-4,9-diaza-spiro[5.5]undecane | C(#N)C1=CC=C(C(=O)N2CCC3(CNC(CO3)=O)CC2)C=C1 | C16H17N3O3
